US03940411
Preparation of 1-(1-Methyl-5-nitro-imidazolecarboximidoyl)-3-thiosemicarbazide (IIIJ)
To a stirred mixture of ethyl 1-methyl-5-nitro-2-imidazolecarboximidate (0.198 g., 0.001 mole) and thiosemicarbazide (0.091 g., 0.001 mole) in 5 ml. of methanol is added 1 drop of cone. H2SO4 and the mixture is stirred at room temperature for 50 minutes. The solid is filtered and washed with methanol, yielding 0.149 g. of the title compound, melting point 200°-201°C. dec.

reactant | ethyl 1-methyl-5-nitro-2-imidazolecarboximidate | 0.001 mole, 0.198 g | CN1C(=NC=C1[N+](=O)[O-])C(OCC)=N | C7H10N4O3
reactant | thiosemicarbazide | 0.001 mole, 0.091 g | NNC(=S)N | CH5N3S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | methanol | CO | CH4O
product | 1-(1-Methyl-5-nitro-imidazolecarboximidoyl)-3-thiosemicarbazide | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C6H9N7O2S
